### PR TITLE
[Merged by Bors] - feat(Order/WellFounded): Acc and infinite descending chain

### PR DESCRIPTION
**Pull request by alreadydone**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/OrderIsoNat.lean [hunk 1]
```diff
@@ -49,29 +49,31 @@ def natGT (f : ℕ → α) (H : ∀ n : ℕ, r (f (n + 1)) (f n)) : ((· > ·) :
...
+  mp h := h.rec fun _ h _ ↦ h
+  mpr := .intro a
+
+theorem exists_not_acc_lt_of_not_acc {α} {a : α} {r} (h : ¬Acc r a) : ∃ b, ¬Acc r b ∧ r b a := by
+  rw [acc_def] at h
+  push_neg at h
+  simpa only [and_comm]
+
+theorem not_acc_iff_exists_nat_fun {α} {r : α → α → Prop} {x : α} :
+    ¬Acc r x ↔ ∃ f : ℕ → α, f 0 = x ∧ ∀ n, r (f (n + 1)) (f n) where
```
Comment (alreadydone) [inline Mathlib/Order/OrderIsoNat.lean]: I suppose these three can go into Lean core ...

File: Mathlib/Order/OrderIsoNat.lean [hunk 2]
```diff
@@ -49,29 +49,31 @@ def natGT (f : ℕ → α) (H : ∀ n : ℕ, r (f (n + 1)) (f n)) : ((· > ·) :
...
-    refine fun E =>
-      by_contradiction fun hx => E.elim' ⟨natGT (fun n => (f^[n] ⟨x, hx⟩).1) fun n => ?_, 0, rfl⟩
-    simp only [Function.iterate_succ']
-    apply h
+    Acc r x ↔ IsEmpty { f : ((· > ·) : ℕ → ℕ → Prop) ↪r r // x ∈ Set.range f } where
+  mp acc := .mk fun ⟨f, k, hk⟩ ↦ not_acc_iff_exists_nat_fun.mpr
+    ⟨(f <| k + ·), hk, fun _n ↦ f.map_rel_iff.2 (Nat.lt_succ_self _)⟩ acc
+  mpr h := of_not_not fun nacc ↦
+    have ⟨f, hf⟩ := not_acc_iff_exists_nat_fun.mp nacc
+    h.elim ⟨natGT f hf.2, 0, hf.1⟩
```
Comment (staroperator) [inline Mathlib/Order/OrderIsoNat.lean:63]: Could you please also add those versions that do not depend on `IsStrictOrder`? Thanks!

```suggestion

theorem acc_iff_no_nat_fun {α} {r : α → α → Prop} {x : α} :
    Acc r x ↔ IsEmpty { f : ℕ → α // f 0 = x ∧ ∀ n, r (f (n + 1)) (f n) } := by
  rw [← not_iff_not, not_isEmpty_iff, nonempty_subtype]
  exact not_acc_iff_exists_nat_fun

theorem wellFounded_iff_no_nat_fun {α} {r : α → α → Prop} :
    WellFounded r ↔ IsEmpty { f : ℕ → α // ∀ n, r (f (n + 1)) (f n) } where
  mp := fun ⟨h⟩ ↦ ⟨fun ⟨f, hf⟩ ↦ (acc_iff_no_nat_fun.mp (h (f 0))).false ⟨f, rfl, hf⟩⟩
  mpr h := ⟨fun _ ↦ acc_iff_no_nat_fun.mpr ⟨fun ⟨f, hf⟩ ↦ h.false ⟨f, hf.2⟩⟩⟩
```

Comment (alreadydone) [reply Mathlib/Order/OrderIsoNat.lean:63]: Added but replaced "no" by "isEmpty". Thanks!

Comment (staroperator) [reply Mathlib/Order/OrderIsoNat.lean:63]: I just realized the `wellFounded_iff_isEmpty_nat_fun` has already been proved as [`WellFounded.wellFounded_iff_no_descending_seq`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/WellFounded.html#WellFounded.wellFounded_iff_no_descending_seq), which was introduced in #21010. Should we also follow their namespaces?

Comment (alreadydone) [reply Mathlib/Order/OrderIsoNat.lean:63]: Great, that file looks like a better home for the results. I'm not sure about the naming convention, but `nat_fun` is indeed too little information.

Comment (alreadydone) [reply Mathlib/Order/OrderIsoNat.lean:63]: I'm not changing names for now, and leaving them in root namespace. (Previously the new results were erroneously in RelEmbedding namespace.)

File: Mathlib/Order/WellFounded.lean [hunk 3]
```diff
@@ -19,6 +19,28 @@ and an induction principle `WellFounded.induction_bot`.
 -/
```
Comment (staroperator) [inline Mathlib/Order/WellFounded.lean:20]: There is an extra line
```suggestion
```

File: Mathlib/Order/OrderIsoNat.lean (hunk 2 above)
Comment (staroperator) [reply Mathlib/Order/OrderIsoNat.lean:63]: I think root namespace is fine. For names, I vote for `descending_seq` to replace `nat_fun`, and only `RelEmbedding.` theorems require `IsStrictOrder`.

File: Mathlib/Order/OrderIsoNat.lean [hunk 4]
```diff
@@ -81,12 +69,9 @@ theorem not_acc_of_decreasing_seq (f : ((· > ·) : ℕ → ℕ → Prop) ↪r r
 
 See `wellFounded_iff_no_descending_seq` for a version which works on any relation. -/
```
Comment (staroperator) [inline Mathlib/Order/OrderIsoNat.lean]: Also, this PR is a nice place to fix this docstring (the current version links to itself).

```suggestion
See `WellFounded.wellFounded_iff_no_descending_seq` for a version which works on any relation. -/
```

File: Mathlib/Order/OrderIsoNat.lean (hunk 2 above)
Comment (alreadydone) [reply Mathlib/Order/OrderIsoNat.lean:63]: I don't know why three are called `decreasing_seq` and one is called `descending_seq` ...

Comment (staroperator) [reply Mathlib/Order/OrderIsoNat.lean:63]: I didn't notice there are two different words! I believe "descending sequence" should be the standard term in context of well founded relations (for example, <https://en.wikipedia.org/wiki/Well-founded_relation> always use "descending").

Comment (staroperator) [reply Mathlib/Order/OrderIsoNat.lean:63]: I guess this might be a typo by @vihdzp when introduced at [mathlib3#15927](https://github.com/leanprover-community/mathlib3/pull/15927).

Comment (alreadydone) [reply Mathlib/Order/OrderIsoNat.lean:63]: Maybe a correction rather than typo ... I guess the WellFounded namespace isn't intentional though.

Comment (vihdzp) [reply Mathlib/Order/OrderIsoNat.lean:63]: It's most likely a mistake on my part. In Spanish the term is "sucesión decreciente".

Comment (alreadydone) [reply Mathlib/Order/OrderIsoNat.lean:63]: If everyone agrees I'm going to replace `decreasing/descending_seq` and `nat_fun` by `descending_chain` according to Wikipedia, and `no` by `isEmpty`, and deprecate the original names.

File: Mathlib/Order/OrderIsoNat.lean [hunk 5]
```diff
@@ -49,54 +49,49 @@ def natGT (f : ℕ → α) (H : ∀ n : ℕ, r (f (n + 1)) (f n)) : ((· > ·) :
...
+alias acc_iff_no_decreasing_seq := acc_iff_isEmpty_subtype_mem_range
+
+@[deprecated (since := "2025-08-10")] alias not_acc_of_decreasing_seq := not_acc
+
+@[deprecated (since := "2025-08-10")]
+alias wellFounded_iff_no_descending_seq := wellFounded_iff_isEmpty
+
+@[deprecated (since := "2025-08-10")] alias not_wellFounded_of_decreasing_seq := not_wellFounded
+
 end RelEmbedding
```
Comment (alreadydone) [inline Mathlib/Order/OrderIsoNat.lean:90]: I ended up doing these renames (since they're already in RelEmbedding namespace), as well as `@[deprecated] alias WellFounded.wellFounded_iff_no_descending_seq := wellFounded_iff_isEmpty_descending_chain`.

**Review by staroperator — APPROVED** [review]

**Review by vihdzp — APPROVED** [review]

File: Mathlib/Order/OrderIsoNat.lean [hunk 6]
```diff
@@ -49,54 +49,49 @@ def natGT (f : ℕ → α) (H : ∀ n : ℕ, r (f (n + 1)) (f n)) : ((· > ·) :
...
-  rw [acc_iff_no_decreasing_seq, not_isEmpty_iff]
+theorem acc_iff_isEmpty_subtype_mem_range {x} :
+    Acc r x ↔ IsEmpty { f : ((· > ·) : ℕ → ℕ → Prop) ↪r r // x ∈ Set.range f } where
+  mp acc := .mk fun ⟨f, k, hk⟩ ↦ not_acc_iff_exists_descending_chain.mpr
+    ⟨(f <| k + ·), hk, fun _n ↦ f.map_rel_iff.2 (Nat.lt_succ_self _)⟩ acc
+  mpr h := of_not_not fun nacc ↦
+    have ⟨f, hf⟩ := not_acc_iff_exists_descending_chain.mp nacc
+    h.elim ⟨natGT f hf.2, 0, hf.1⟩
+
+theorem not_acc (f : ((· > ·) : ℕ → ℕ → Prop) ↪r r) (k : ℕ) : ¬Acc r (f k) := by
```
Comment (b-mehta) [inline Mathlib/Order/OrderIsoNat.lean:64]: I think this, and `not_wellFounded`, could have more descriptive names, how about `not_acc_of_descending_chain`?

Comment (b-mehta) [reply Mathlib/Order/OrderIsoNat.lean:64]: In fact I think it's cleaner to use the idea https://github.com/leanprover-community/mathlib4/pull/28120/files#r2264636988 here more uniformly, which would suggest that name too.

File: Mathlib/Order/WellFounded.lean [hunk 7]
```diff
@@ -18,6 +18,35 @@ and provide a few new definitions: `WellFounded.min`, `WellFounded.sup`, and `We
...
+    (fun _x _ ih ⟨f, hf⟩ ↦ ih (f 1) (hf.1 ▸ hf.2 0) ⟨(f <| · + 1), rfl, fun _ ↦ hf.2 _⟩) h
+
+theorem acc_iff_isEmpty_descending_chain {α} {r : α → α → Prop} {x : α} :
+    Acc r x ↔ IsEmpty { f : ℕ → α // f 0 = x ∧ ∀ n, r (f (n + 1)) (f n) } := by
+  rw [← not_iff_not, not_isEmpty_iff, nonempty_subtype]
+  exact not_acc_iff_exists_descending_chain
+
+/-- A relation is well-founded iff it doesn't have any infinite descending chain.
+
+See `RelEmbedding.wellFounded_iff_isEmpty` for a version on strict orders. -/
```
Comment (b-mehta) [inline Mathlib/Order/WellFounded.lean]:
```suggestion
See `RelEmbedding.wellFounded_iff_isEmpty` for a version in terms of relation embeddings. -/
```
optional, but to me this is the real distinction between the two: the actual spelling of the condition

**Review by b-mehta — APPROVED** [review]
Thanks for this, these generalisations are valuable! I have a question about the naming, and a minor docstring comment, but this is in good shape overall.

File: Mathlib/Order/OrderIsoNat.lean (hunk 6 above)
Comment (alreadydone) [reply Mathlib/Order/OrderIsoNat.lean:64]: I just feel a bit repetitive to have both RelEmbedding and descending_chain in the name. Do you think `not_acc_of_nat_gt` is better? `nat` and `gt` is basically the only info missing from `RelEmbedding`, and there's an actual decl named [RelEmbedding.natGT](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Order/OrderIsoNat.html#RelEmbedding.natGT).

Comment (b-mehta) [reply Mathlib/Order/OrderIsoNat.lean:64]: Ah, I forgot that these are in the RelEmbedding namespace; in that case these should be fine

Comment (alreadydone) [reply Mathlib/Order/OrderIsoNat.lean:64]: Do you think it's better to add the `of_nat_gt` or not?

Comment (b-mehta) [reply Mathlib/Order/OrderIsoNat.lean:64]: I think it's fine as-is

**Comment by alreadydone** [comment]
Thanks 🎉
bors r+
(Oh it's not delegated yet ...)

**Comment by b-mehta** [comment]
Thanks!

bors merge
